US04552874
2-Acetyl-9-methylpyrazolo[4,3-b][1,4]benzoxazine
A solution of 7.5 g (40 mmols) of 9-methylpyrazolo[4,3-b][1,4]benzoxazine in 50 ml of absolute THF is added dropwise to a suspension of 1.8 g of sodium hydride (55-60% dispersion in oil) in 10 ml of absolute THF. After completion of evolution of hydrogen, 3.14 ml of acetyl chloride were added dropwise to the reaction mixture and the mixture was boiled under reflux for 3 hours. The solvent is removed in vacuo, the residue is taken up in water and the product is extracted at pH 7 with dichloromethane. The organic phase is evaporated and the residue is chromatographed on silica gel with ethyl acetate (dichloromethane (1:1).

reactant | 9-methylpyrazolo[4,3-b][1,4]benzoxazine | 40 mmols, 7.5 g | CN1C2=C(OC3=C1C=CC=C3)C=NN2 | C10H9N3O
reactant | sodium hydride | 1.8 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | acetyl chloride | 3.14 ml | C(C)(=O)Cl | C2H3ClO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-Acetyl-9-methylpyrazolo[4,3-b][1,4]benzoxazine | C(C)(=O)N1N=C2C(OC3=C(N2C)C=CC=C3)=C1 | C12H11N3O2
